* Complementary-polarity candidate for high reference; not yet qualified.
* Uniformly scaled buffer candidate; ideal external target and bias still required.
* Preliminary two-stage unity feedback amplifier, external bias voltages.
* Negative feedback: OUT drives first-stage positive gain input; second stage inverts.
.subckt pt_reference_buffer_complement_tune IN OUT BN BP VDD VSS params: CC=1p S=1 RZ=100
XIP A OUT T VDD pfet_03v3 w=8u l=.5u m={4*S}
XIN X IN T VDD pfet_03v3 w=8u l=.5u m={4*S}
XT T BP VDD VDD pfet_03v3 w=8u l=.5u m={16*S}
XMP A A VSS VSS nfet_03v3 w=8u l=.5u m={4*S}
XMN X A VSS VSS nfet_03v3 w=8u l=.5u m={4*S}
XOUT OUT X VDD VDD pfet_03v3 w=8u l=.5u m={8*S}
XLOAD OUT BN VSS VSS nfet_03v3 w=8u l=.5u m={64*S}
RC X Z {RZ/S}
CC Z OUT {CC*S}
.ends
