* Uniformly scaled buffer candidate; ideal external target and bias still required.
* Preliminary two-stage unity feedback amplifier, external bias voltages.
* Negative feedback: OUT drives first-stage positive gain input; second stage inverts.
.subckt pt_reference_buffer_scaled IN OUT BN BP VDD VSS params: CC=1p S=1
XIP A OUT T VSS nfet_03v3 w=8u l=.5u m={4*S}
XIN X IN T VSS nfet_03v3 w=8u l=.5u m={4*S}
XT T BN VSS VSS nfet_03v3 w=8u l=.5u m={16*S}
XMP A A VDD VDD pfet_03v3 w=8u l=.5u m={4*S}
XMN X A VDD VDD pfet_03v3 w=8u l=.5u m={4*S}
XOUT OUT X VSS VSS nfet_03v3 w=8u l=.5u m={8*S}
XLOAD OUT BP VDD VDD pfet_03v3 w=8u l=.5u m={64*S}
RC X Z {100/S}
CC Z OUT {CC*S}
.ends
